US06495546B1
Under nitrogen, a mixture of 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (7.7 g) and di-tert-butyl dicarbonate (6.9 g) in tetrahydrofuran (80 ml) was stirred at room temperature for 12 hours. After evaporation, the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=7:1) to give N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (10 g).

reactant | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 7.7 g | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)O | C18H21NO
reactant | di-tert-butyl dicarbonate | 6.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 10 g | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)O)C(=O)OC(C)(C)C | C23H29NO3
